US07524847B2
2-(3-Benzyl-4-chloro-2-oxo-2,3-dihydroimidazo[4.5-c]pyridin-1-ylmethyl)benzonitrile
Potassium carbonate (0.152 g) and (2-bromomethyl)benzonitrile (0.216 g) were added to a solution of 3-benzyl-4-chloro1,3-dihydroimidazo[4.5-c]pyridin-2-one (0.259 g) in N,N-dimethylformamide (5 mL). This was stirred at room temperature for 16 hours. Ethyl acetate (60 mL) and water (30 mL) were added, and the organic layer was washed twice with 30 mL of water and once with 30 mL of saturated aqueous sodium chloride solution. This was then dried over anhydrous magnesium sulfate. The organic layer was filtered and concentrated under reduced pressure, and the residue was then purified by silica gel chromatography. The ethyl acetate:hexane 3:2 fraction gave the title compound (0.364 g).

reactant | Potassium carbonate | 0.152 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-benzyl-4-chloro1,3-dihydroimidazo[4.5-c]pyridin-2-one | 0.259 g | C(C1=CC=CC=C1)N1C(NC2=C1C(=NC=C2)Cl)=O | C13H10ClN3O
reactant | Ethyl acetate | 60 mL | C(C)(=O)OCC | C4H8O2
reactant | water | 30 mL | O | H2O
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 2-(3-Benzyl-4-chloro-2-oxo-2,3-dihydroimidazo[4.5-c]pyridin-1-ylmethyl)benzonitrile | 0.364 g | C(C1=CC=CC=C1)N1C(N(C2=C1C(=NC=C2)Cl)CC2=C(C#N)C=CC=C2)=O | C21H15ClN4O
